US07345048B2
4-(N-[2,4-diamino-6-pteridinyl-methyl]-N-methylamino)-benzoic acid 4-aminobutyl amide
To a suspension of 4-[N-(2,4-diamino-6-pteridinylmethyl)-N-methylamino]benzoic acid hemihydrochloride (250 mg, 0.73 mmol) in dry DMF (20 ml) were added N,N-diisopropylethylamine (250 μl, 1.46 mmol, 2 equiv) and diethyl cyanophosphonate (225 μl, 1.46 mmol, 2 equiv). Dissolution occurred rapidly and the reaction was stirred for 4 hours at room temperature. 1,4-Diaminobutane (367 μl, 3.65 mmol, 5 equiv) and N,N-diisopropylethylamine (250 μl, 1.46 mmol, 2 equiv) were then added and the solution was stirred 45 minutes at room temperature. The completion of reaction was verified by HPLC, and solid NaHCO3 was added. The solvent was then evaporated under reduced pressure and the residue suspended in a small amount of methanol. Addition of dilute aqueous NH4OH was then followed by filtration and a rinse with water gave the product upon drying to yield 153 mg (53%): MS m/z (M+H) 396, HPLC Rt=3.80 min.

reactant | 4-[N-(2,4-diamino-6-pteridinylmethyl)-N-methylamino]benzoic acid hemihydrochloride | 0.73 mmol, 250 mg | Cl.NC1=NC2=NC=C(N=C2C(=N1)N)CN(C)C1=CC=C(C(=O)O)C=C1.NC1=NC2=NC=C(N=C2C(=N1)N)CN(C)C1=CC=C(C(=O)O)C=C1
reactant | N,N-diisopropylethylamine | 1.46 mmol, 250 μl, 2 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethyl cyanophosphonate | 1.46 mmol, 225 μl, 2 equiv | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | 1,4-Diaminobutane | 3.65 mmol, 367 μl, 5 equiv | NCCCCN | C4H12N2
reactant | N,N-diisopropylethylamine | 1.46 mmol, 250 μl, 2 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(N-[2,4-diamino-6-pteridinyl-methyl]-N-methylamino)-benzoic acid 4-aminobutyl amide | NCCCCNC(C1=CC=C(C=C1)N(C)CC=1N=C2C(=NC(=NC2=NC1)N)N)=O | C19H25N9O
